2185-02-27 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -          Yesterday PM at [**2106**] pt was noted to be somnolent with
   episodes of apnea, due to concerns for airway protection Anaesthesia
   was called and pt was intubated
   -          Late PM yesterday pt noted to have a decrease in SBP to 60s
   not responsive to fluid, pt was started on peripheral Dopamine and
   started on Ceftriaxone and Vancomycin for CNS prophylaxis given her
   rapid change in MS. [**First Name (Titles) 5456**] [**Name (NI) 167**], agreed with plan.
   Unfortunately LP was unable to be obtained as pt was hemodynamically
   unstable
   -          R Central line placed in the ICU f/u CXR showed it was
   coiled up extending up. R Central line was d/c
d and L Central line was
   placed.
   -          Family discussion held regarding code status, confirmed FULL
   CODE
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-2-26**] 08:40 PM
   Vancomycin - [**2185-2-26**] 09:23 PM
   Infusions:
   Dopamine - 12 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-2-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-27**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 94 (30 - 103) bpm
   BP: 79/57(66) {57/40(37) - 153/84(113)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,085 mL
                                                                    797 mL
   PO:
             TF:
   IVF:
                                                                  3,085 mL
                                                                    797 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    205 mL
   Urine:
                                                                    540 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,545 mL
                                                                    592 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 443 (443 - 443) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.40/42/126/24/1
   Ve: 7.5 L/min
   PaO2 / FiO2: 315
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   125 K/uL
   11.3 g/dL
   107 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   25 mg/dL
   109 mEq/L
   140 mEq/L
   33.8 %
   21.0 K/uL
        [image002.jpg]
                             [**2185-2-26**]  11:28 AM
                             [**2185-2-26**]  11:29 AM
                             [**2185-2-26**]  08:45 PM
                             [**2185-2-26**]  08:53 PM
                             [**2185-2-27**]  04:00 AM
                             [**2185-2-27**]  04:14 AM
   WBC
   9.4
   21.0
   Hct
   41.5
   33.8
   Plt
   124
   125
   Cr
   0.8
   1.0
   TropT
   0.01
   0.02
   0.03
   TCO2
   31
   23
   27
   Glucose
   131
   132
   107
   Other labs: PT / PTT / INR:14.4/44.6/1.3, CK / CKMB /
   Troponin-T:211/14/0.03, ALT / AST:34/52, Alk Phos / T Bili:114/0.4,
   Amylase / Lipase:147/, Differential-Neuts:95.3 %, Lymph:2.5 %, Mono:1.3
   %, Eos:0.7 %, Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, LDH:292 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   This is a 89F w/ HTN, vascular dementia admitted with weakness and
   dysarthria, transferred to [**Hospital Unit Name 1**] with altered mental status.
   .
   Plan:
   .
   # Sepsis: Pt currently shows a leukocytosis of 21.0 up from 9.4
   yesterday, overnight required vasopressor support after running a SBP
   in the 60s-70 with no response to IVF. Pt
s decline last night was
   rapid, pt around 1900 showed signs of somonelence and apnea, she was
   then noted to be hypotensive requiring at first peripheral Dopamine.
   Yesterday evening pt also showed no [**Location (un) **] on rectal temperature and
   was started on a Bair hugger. Concern last night stemmed from her
   progression of AMS to sepsis, given this data there is a large concern
   for bacterial meningitis. Pt was given Ceftriaxone and Vancomycin
   empirically last night, an LP was deferred given the pt was
   hemodynamically unstable. AM labs today showed elevated coags, concern
   remains for DIC. Will order DIC labs.
   - Continue Vancoymcin and Ceftriaxone for bacterial meningitis
   - Will also add Ampicillin for Listeria coverage
   - [**Location (un) 5456**] notified last night of events, will f/u recs this AM
   - Will send for DIC labs, Fibrinogen, FDP, D Dimer labs sent
   - Will LP today of DIC labs are negative,as pt is now more stable will
   also attempt an MRI to eval whether pt had a stroke that caused the
   initial seziure event.
   # AMS: Pt stil not responsive yesterday, given the witnessed episode of
   tonic clonic seizure, it was hypothesized that Ms. [**Known lastname 5460**] [**Last Name (Titles) 5461**] a
   seizure on the floor and was post-ictal upon assessment. [**Last Name (Titles) 5456**] were
   consulted and recommended loading with Keppra continuing 500mg Keppra
   IV BID. CT head performed yesterday showed no acute ICP, pt was unable
   to undergo MRI unfortunately as she became hemodynamically unstable.
   - Appreciate [**Last Name (Titles) **] recommendations
   - f/u CT head
   - MRI head today following LP
   - Infectious w/u including u/a, ucx, and blcxs
   - Per [**Last Name (Titles) **], no need for EEG given clear, witnessed tonic clonic
   seizures
   .
   # NSTEMI:  No ECG changes, no complaint of chest pain.  Suspect likely
   demand ischemia in setting of acute illness.  CK MB index was initially
   noted to be elevated however now appear to be trending down.
   # FEN: replete lytes prn, NPO given altered mental status, pt currently
   has OGT in place, will initiate tube feeds per nutrition recs.
   .
   ## PPx: heparin SC, Lansoprazole
   .
   ## Code: full per discussion with family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-2-26**] 10:30 AM
   18 Gauge - [**2185-2-26**] 11:00 AM
   Arterial Line - [**2185-2-26**] 08:42 PM
   Multi Lumen - [**2185-2-27**] 04:23 AM
   Prophylaxis:
   DVT: Heparin SC TID
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2185-02-28 08:13:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - Patient [** 5461**] an brain MRI which is pending.
   - An LP was attempted, however it was unsucesseful.  Will need to go
   for an IR-guided LP tomorrow.
   - TTE was ordered.
   - Tube feeds were started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-2-27**] 09:53 PM
   Ampicillin - [**2185-2-28**] 05:49 AM
   Ceftriaxone - [**2185-2-28**] 07:57 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-2-28**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-2-28**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 99 (78 - 102) bpm
   BP: 110/70(87) {77/55(64) - 152/95(117)} mmHg
   RR: 15 (12 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (6 - 15)mmHg
   Total In:
                                                                  3,502 mL
                                                                  1,510 mL
   PO:
   TF:
                                                                    250 mL
                                                                    406 mL
   IVF:
                                                                  3,252 mL
                                                                  1,014 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    695 mL
   Urine:
                                                                  1,805 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,697 mL
                                                                    815 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/44/130/26/2
   Ve: 6.2 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   11.4 g/dL
   131 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   20 mg/dL
   111 mEq/L
   143 mEq/L
   33.7 %
   13.3 K/uL
        [image002.jpg]
                             [**2185-2-26**]  11:28 AM
                             [**2185-2-26**]  11:29 AM
                             [**2185-2-26**]  08:45 PM
                             [**2185-2-26**]  08:53 PM
                             [**2185-2-27**]  04:00 AM
                             [**2185-2-27**]  04:14 AM
                             [**2185-2-27**]  12:17 PM
                             [**2185-2-28**]  03:00 AM
                             [**2185-2-28**]  03:13 AM
   WBC
   9.4
   21.0
   16.5
   13.3
   Hct
   41.5
   33.8
   35.5
   33.7
   Plt
   124
   125
   120
   107
   Cr
   0.8
   1.0
   1.0
   TropT
   0.01
   0.02
   0.03
   0.03
   TCO2
   31
   23
   27
   28
   Glucose
   131
   132
   107
   131
   Other labs: PT / PTT / INR:13.8/47.6/1.2, CK / CKMB /
   Troponin-T:457/13/0.03, ALT / AST:28/42, Alk Phos / T Bili:96/0.1,
   Amylase / Lipase:147/, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:1769 ng/mL, Fibrinogen:550 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, LDH:269 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is a 89F w/ HTN, vascular dementia admitted with weakness and
   dysarthria, transferred to [**Hospital Unit Name 1**] with altered mental status.
   .
   Plan:
   .
   # Sepsis: Pt currently shows a leukocytosis of 21.0 up from 9.4
   yesterday, overnight required vasopressor support after running a SBP
   in the 60s-70 with no response to IVF. Pt
s decline last night was
   rapid, pt around 1900 showed signs of somonelence and apnea, she was
   then noted to be hypotensive requiring at first peripheral Dopamine.
   Yesterday evening pt also showed no [**Location (un) **] on rectal temperature and
   was started on a Bair hugger. Concern last night stemmed from her
   progression of AMS to sepsis, given this data there is a large concern
   for bacterial meningitis. Pt was given Ceftriaxone and Vancomycin
   empirically last night, an LP was deferred given the pt was
   hemodynamically unstable. AM labs today showed elevated coags, concern
   remains for DIC. Will order DIC labs.
   - Continue Vancoymcin and Ceftriaxone for bacterial meningitis
   - Will also add Ampicillin for Listeria coverage
   - Neurology notified last night of events, will f/u recs this AM
   - Will send for DIC labs, Fibrinogen, FDP, D Dimer labs sent
   - Will LP today of DIC labs are negative,as pt is now more stable will
   also attempt an MRI to eval whether pt had a stroke that caused the
   initial seziure event.
   # AMS: Pt stil not responsive yesterday, given the witnessed episode of
   tonic clonic seizure, it was hypothesized that Ms. [**Known lastname 5460**] [**Last Name (Titles) 5461**] a
   seizure on the floor and was post-ictal upon assessment. Neurology were
   consulted and recommended loading with Keppra continuing 500mg Keppra
   IV BID. CT head performed yesterday showed no acute ICP, pt was unable
   to undergo MRI unfortunately as she became hemodynamically unstable.
   - Appreciate neurology recommendations
   - f/u CT head
   - MRI head today following LP
   - Infectious w/u including u/a, ucx, and blcxs
   - Per neurology, no need for EEG given clear, witnessed tonic clonic
   seizures
   # NSTEMI:  No ECG changes, no complaint of chest pain.  Suspect likely
   demand ischemia in setting of acute illness.  CK MB index was initially
   noted to be elevated however now appear to be trending down.
   # FEN: replete lytes prn, NPO given altered mental status, pt currently
   has OGT in place, will initiate tube feeds per nutrition recs.
   ## PPx: heparin SC, Lansoprazole
   ## Code: full per discussion with family
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2185-2-28**] 04:56 AM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-2-26**] 10:30 AM
   18 Gauge - [**2185-2-26**] 11:00 AM
   Arterial Line - [**2185-2-26**] 08:42 PM
   Multi Lumen - [**2185-2-27**] 04:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2185-02-28 10:38:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2185-2-27**] 08:00 PM
   MRI performed with results pending
   LP attempted and failed
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-2-27**] 09:53 PM
   Ampicillin - [**2185-2-28**] 05:49 AM
   Ceftriaxone - [**2185-2-28**] 07:57 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-2-28**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2185-2-28**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 93 (78 - 102) bpm
   BP: 92/60(73) {77/55(64) - 152/95(117)} mmHg
   RR: 11 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 10 (6 - 15)mmHg
   Total In:
                                                                  3,502 mL
                                                                  1,720 mL
   PO:
   TF:
                                                                    250 mL
                                                                    517 mL
   IVF:
                                                                  3,252 mL
                                                                  1,113 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    955 mL
   Urine:
                                                                  1,805 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,697 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/44/130/26/2
   Ve: 6.2 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
She does appear to respond to voice but without meaningful
   response to commands or questions.  Eyes
with chronic changes.
   Labs / Radiology
   11.4 g/dL
   107 K/uL
   131 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   20 mg/dL
   111 mEq/L
   143 mEq/L
   33.7 %
   13.3 K/uL
        [image002.jpg]
                             [**2185-2-26**]  11:28 AM
                             [**2185-2-26**]  11:29 AM
                             [**2185-2-26**]  08:45 PM
                             [**2185-2-26**]  08:53 PM
                             [**2185-2-27**]  04:00 AM
                             [**2185-2-27**]  04:14 AM
                             [**2185-2-27**]  12:17 PM
                             [**2185-2-28**]  03:00 AM
                             [**2185-2-28**]  03:13 AM
   WBC
   9.4
   21.0
   16.5
   13.3
   Hct
   41.5
   33.8
   35.5
   33.7
   Plt
   124
   125
   120
   107
   Cr
   0.8
   1.0
   1.0
   TropT
   0.01
   0.02
   0.03
   0.03
   TCO2
   31
   23
   27
   28
   Glucose
   131
   132
   107
   131
   Other labs: PT / PTT / INR:13.8/47.6/1.2, CK / CKMB /
   Troponin-T:457/13/0.03, ALT / AST:28/42, Alk Phos / T Bili:96/0.1,
   Amylase / Lipase:147/, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:1769 ng/mL, Fibrinogen:550 mg/dL,
   Lactic Acid:0.8 mmol/L, Albumin:3.6 g/dL, LDH:269 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR--Lines and ETT in good position
   Left lower lobe consolidation noted but not significant change.
   Assessment and Plan
   89 yo female with history of HTN and Demenia now admit with weakness
   and altered mental status now with defined sepsis and started with ABX
   coverage for possible meningitis.  She had intubation required with
   need for airway protection and has had persistent impairment of mental
   status, although, patient with favorable level of ventilatory support
   and excellent oxygenation all consistent with extrapulmonary source of
   failure.  She does have persistent left lower lobe opacity suggesting
   area of collapse/consolidation.
    RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])--Patient with continued A/C
   support and adequate ABG this morning.  She has persistent alteration
   in mental status as primary impairment to move from ventilatory support
   -Would move to PSV support this morning with 15/5 and maintain MMV
 HYPOTENSION (NOT SHOCK)
She has CVP at 10 which would appear to be
   adquate filling
we do not know CvO2 to confirm state of cardiac ouptput
   or SVR or tissue delivery in any form.  She has been refractory to
   attempts to wean pressors to date and will need to evaluate source.
   -Dopamine to wean today
   -Will move to check CvO2 this morning
   -ECHO today to re-quantify
   -Troponin mild elevation and likely related to demand ischemia but may
   be a marker of additional cardiogenic source of persistent hypotension.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
In setting of presentation with
   fever and altered mental status
   -Amp/Vanco/CTX/Acyclovir
   -LP today by IR As we have been unsuccessful
   -Will need follow up of MRI [**Location (un) **].
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   -Continue with current medications--Keppra
   -Regular examinations
   -Follow up LP and MRI dosing
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2185-2-28**] 10:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-2-26**] 10:30 AM
   18 Gauge - [**2185-2-26**] 11:00 AM
   Arterial Line - [**2185-2-26**] 08:42 PM
   Multi Lumen - [**2185-2-27**] 04:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2185-03-01 08:01:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   -Keppra increased to 750 mg [**Hospital1 7**] per neuro
   -Propofol discontinued, woke up and moving all extremities, getting
   CPAP trial, may extubate in AM
   -TTE performed and EF 65-70%
   -Head MRI: Stable ischemic changes, ectasia of some vessels, new
   paranasal sinus diseases (nothing to explain acute mental status
   changes)
   -To get LP on [**2185-3-1**]
   -ECHO with nl EF, CV02 low at 40.
   -Started on acyclovir empirically for HSV meningitis
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-2-28**] 07:27 PM
   Vancomycin - [**2185-2-28**] 08:52 PM
   Acyclovir - [**2185-3-1**] 01:03 AM
   Ampicillin - [**2185-3-1**] 04:37 AM
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-2-28**] 11:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**2-28**] intubation
   Flowsheet Data as of  [**2185-3-1**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.2
   HR: 88 (74 - 99) bpm
   BP: 113/97(105) {55/39(46) - 137/97(105)} mmHg
   RR: 19 (5 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 8 (6 - 11)mmHg
   Mixed Venous O2% Sat: 80 - 84
   Total In:
                                                                  4,684 mL
                                                                    411 mL
   PO:
   TF:
                                                                  1,252 mL
   IVF:
                                                                  3,342 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    420 mL
   Urine:
                                                                  2,200 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,484 mL
                                                                     -9 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 419 (399 - 465) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 11 cmH2O
   Plateau: 11 cmH2O
   SpO2: 96%
   ABG: 7.40/44/144/29/2
   Ve: 5.1 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   81 K/uL
   10.7 g/dL
   96 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   15 mg/dL
   109 mEq/L
   144 mEq/L
   31.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-2-26**]  11:29 AM
                             [**2185-2-26**]  08:45 PM
                             [**2185-2-26**]  08:53 PM
                             [**2185-2-27**]  04:00 AM
                             [**2185-2-27**]  04:14 AM
                             [**2185-2-27**]  12:17 PM
                             [**2185-2-28**]  03:00 AM
                             [**2185-2-28**]  03:13 AM
                             [**2185-2-28**]  04:31 PM
                             [**2185-3-1**]  03:00 AM
   WBC
   21.0
   16.5
   13.3
   10.0
   Hct
   33.8
   35.5
   33.7
   31.4
   Plt
   125
   120
   107
   81
   Cr
   1.0
   1.0
   0.8
   TropT
   0.02
   0.03
   0.03
   0.02
   TCO2
   31
   23
   27
   28
   28
   Glucose
   132
   107
   131
   96
   Other labs: PT / PTT / INR:13.8/47.6/1.2, CK / CKMB /
   Troponin-T:379/7/0.02, ALT / AST:28/42, Alk Phos / T Bili:96/0.1,
   Amylase / Lipase:147/, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:1769 ng/mL, Fibrinogen:550 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:269 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   This is a 89F w/ HTN, vascular dementia admitted with weakness and
   dysarthria, transferred to [**Hospital Unit Name 1**] with altered mental status.
   .
   Plan:
   .
   # Respiratory distress:  intubated because of AMS and concerns
   regarding ability to protect airway.  Will attempt PS today.
   .
   # Hypotension: Pt had a leukocytosis on [**2-27**] and required pressors after
   SBPs in the 60s-70 with no response to IVF. Pt
s decline was rapid, pt
   around 1900 showed signs of somonelence and apnea, she was then noted
   to be hypotensive requiring at first peripheral Dopamine. Concern
   stemmed from progression of AMS to sepsis, but culture data negative
   thus far and no clear source.  Very dopamine sensitive.
   - attempt to weane dopamine and check CVO2 to distinguish sepsis (low
   O2 from cardiogenic shock high O2)
   # AMS: Pt stil not responsive yesterday, given the witnessed episode of
   tonic clonic seizure, it was hypothesized that Ms. [**Known lastname 5460**] [**Last Name (Titles) 5461**] a
   seizure on the floor and was post-ictal upon assessment. Neurology were
   consulted and recommended loading with Keppra continuing 500mg Keppra
   IV BID. CT head performed yesterday showed no acute ICP as did MRI
   head.
   - Appreciate neurology recommendations
   - Infectious w/u including u/a, ucx, and blcxs
   - Continue Vancoymcin, Ceftriaxone, and ampicillin for bacterial
   meningitis
   - Per neurology, no need for EEG given clear, witnessed tonic clonic
   seizures
    # Cardiac enzyme elevation:  No ECG changes, no complaint of chest
   pain.  Suspect likely demand ischemia in setting of acute illness.  CK
   MB index was initially noted to be elevated however now appear to be
   trending down.
   # FEN: replete lytes prn, NPO given altered mental status, pt currently
   has OGT in place, will initiate tube feeds per nutrition recs.
   ## PPx: heparin SC, Lansoprazole
   ## Code: full per discussion with family
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2185-2-26**] 10:30 AM
   18 Gauge - [**2185-2-26**] 11:00 AM
   Arterial Line - [**2185-2-26**] 08:42 PM
   Multi Lumen - [**2185-2-27**] 04:23 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2185-03-01 11:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Keppra increased
   Propofol D/C'd
   PSV wean to [**5-31**]
   TTE--EF wnl
   MRI--no parenchymal insult noted on prelim read
   Acyclovir started for possible HSV
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-2-28**] 08:52 PM
   Acyclovir - [**2185-3-1**] 01:03 AM
   Ampicillin - [**2185-3-1**] 04:37 AM
   Ceftriaxone - [**2185-3-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-3-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2185-3-1**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 73 (69 - 97) bpm
   BP: 114/67(85) {71/48(57) - 128/97(105)} mmHg
   RR: 13 (5 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  4,684 mL
                                                                    679 mL
   PO:
   TF:
                                                                  1,252 mL
   IVF:
                                                                  3,342 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    935 mL
   Urine:
                                                                  2,200 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,484 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 445 (399 - 465) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 10 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/41/146/29/4
   Ve: 5.2 L/min
   PaO2 / FiO2: 365
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   81 K/uL
   96 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   15 mg/dL
   109 mEq/L
   144 mEq/L
   31.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-2-26**]  08:45 PM
                             [**2185-2-26**]  08:53 PM
                             [**2185-2-27**]  04:00 AM
                             [**2185-2-27**]  04:14 AM
                             [**2185-2-27**]  12:17 PM
                             [**2185-2-28**]  03:00 AM
                             [**2185-2-28**]  03:13 AM
                             [**2185-2-28**]  04:31 PM
                             [**2185-3-1**]  03:00 AM
                             [**2185-3-1**]  08:30 AM
   WBC
   21.0
   16.5
   13.3
   10.0
   Hct
   33.8
   35.5
   33.7
   31.4
   Plt
   125
   120
   107
   81
   Cr
   1.0
   1.0
   0.8
   TropT
   0.02
   0.03
   0.03
   0.02
   TCO2
   23
   27
   28
   28
   29
   Glucose
   107
   131
   96
   Other labs: PT / PTT / INR:13.8/47.6/1.2, CK / CKMB /
   Troponin-T:379/7/0.02, ALT / AST:28/42, Alk Phos / T Bili:96/0.1,
   Amylase / Lipase:147/, Differential-Neuts:94.0 %, Band:0.0 %, Lymph:4.0
   %, Mono:2.0 %, Eos:0.0 %, D-dimer:1769 ng/mL, Fibrinogen:550 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:269 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--IJ, ETT in good position, minimal pulmonary infitrates
   noted.
   Assessment and Plan
   89 yo female admit with altered mental status and subsequent
   respiratory failure now with some improvement in mental status in the
   setting of continued empiric Rx for meningitis and with MRI findings
   without a clear discrete deficit noted to explain altered mental status
   at this time.  WBC count has declined in this setting and patient has
   been moved to minimal ventilator settings at 5/5 this morning.
   1)Respiratory Failure
Excellent mental status, good RSBI, minimal
   secretions
   -Extubate today
   -Speech and swallow eval prior to return to feeds
   -Wean O2 as possible
   2)Altered Mental Status-
   -Vanco/Acyclovir/CTX/Ampicillin
   -Continue with ABX Rx as possible contributor
   -Will move to LP quided by fluoro today
s today prior to procedure
   3)Hypotension-
   -Persistent pressor requirements but able to wean
   -IVF bolus as needed
   -Does hav continued low urine output
   -EF=75%
   Continue HR control
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-2-26**] 10:30 AM
   18 Gauge - [**2185-2-26**] 11:00 AM
   Arterial Line - [**2185-2-26**] 08:42 PM
   Multi Lumen - [**2185-2-27**] 04:23 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2185-03-02 07:16:00 Physician Resident Progress Note
Chief Complaint: AMS
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2185-3-1**] 01:30 PM
   -Weaned off Dopa
   -Got fluoro guided LP with normal protein and glucose and no
   pleiocytosis
   -Extubated successfully
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2185-3-1**] 07:20 PM
   Vancomycin - [**2185-3-1**] 10:48 PM
   Acyclovir - [**2185-3-2**] 01:56 AM
   Ampicillin - [**2185-3-2**] 05:03 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-3-1**] 11:29 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt denies pain. States
I can
t speak
   Flowsheet Data as of  [**2185-3-2**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 65 (59 - 79) bpm
   BP: 110/51(71) {90/51(68) - 148/82(108)} mmHg
   RR: 11 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 8 (8 - 10)mmHg
   Total In:
                                                                  2,925 mL
                                                                    464 mL
   PO:
   TF:
   IVF:
                                                                  2,495 mL
                                                                    464 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                  1,025 mL
                                                                    230 mL
   Urine:
                                                                  1,025 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,900 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (346 - 474) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.45/41/146/28/4
   Ve: 4.6 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2- knows year not month, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   118 K/uL
   9.8 g/dL
   91 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   15 mg/dL
   110 mEq/L
   145 mEq/L
   29.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2185-2-27**]  04:00 AM
                             [**2185-2-27**]  04:14 AM
                             [**2185-2-27**]  12:17 PM
                             [**2185-2-28**]  03:00 AM
                             [**2185-2-28**]  03:13 AM
                             [**2185-2-28**]  04:31 PM
                             [**2185-3-1**]  03:00 AM
                             [**2185-3-1**]  08:30 AM
                             [**2185-3-1**]  04:14 PM
                             [**2185-3-2**]  03:39 AM
   WBC
   21.0
   16.5
   13.3
   10.0
   5.1
   Hct
   33.8
   35.5
   33.7
   31.4
   29.5
   Plt
   125
   120
   107
   81
   122
   118
   Cr
   1.0
   1.0
   0.8
   0.7
   TropT
   0.03
   0.03
   0.02
   TCO2
   27
   28
   28
   29
   Glucose
   107
   131
   96
   91
   Other labs: PT / PTT / INR:12.9/55.8/1.1, CK / CKMB /
   Troponin-T:379/7/0.02, ALT / AST:28/42, Alk Phos / T Bili:96/0.1,
   Amylase / Lipase:147/, Differential-Neuts:79.3 %, Band:0.0 %,
   Lymph:13.5 %, Mono:5.5 %, Eos:1.3 %, D-dimer:1769 ng/mL, Fibrinogen:550
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:229 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   This is a 89F w/ HTN, vascular dementia admitted with weakness and
   dysarthria, transferred to [**Hospital Unit Name 1**] with altered mental status.
   .
   Plan:
   .
   # Respiratory distress:  intubated because of AMS and concerns
   regarding ability to protect airway [**2185-2-27**]. Successfully extubated
   yesterday and sating well on Room air
   -Will continue to monitor
   .
   # Hypotension: Pt had a leukocytosis on [**2-27**] and required pressors after
   SBPs in the 60s-70 with no response to IVF. Pt
s decline was rapid, pt
   around 1900 showed signs of somonelence and apnea, she was then noted
   to be hypotensive requiring at first peripheral Dopamine. Concern
   stemmed from progression of AMS to sepsis, but culture data negative
   thus far and no clear source.  Successfully weaned off dopamine
   yesterday
   # AMS: On [**2-27**], given the witnessed episode of tonic clonic seizure, it
   was hypothesized that Ms. [**Known lastname 5460**] [**Last Name (Titles) 5461**] a seizure on the floor and
   was post-ictal upon assessment. CT head  showed no acute ICP as did MRI
   head.  LP yesterday without positive gram stain, prot and glucose nl.
   Culture pending
   - Appreciate neurology recommendations- currently rec continuing abx
   will confirm length of tx today.
   - f/u cultures, CSF
   - Continue Vancomycin, Ceftriaxone, and ampicillin for bacterial
   meningitis as well as acyclovir
   - Per neurology, no need for EEG given clear, witnessed tonic clonic
   seizures
    # Cardiac enzyme elevation:  No ECG changes, no complaint of chest
   pain.  Suspect likely demand ischemia in setting of acute illness.  CK
   MB index was initially noted to be elevated however all CE now trending
   down.
   # FEN: replete lytes prn, NPO for now pending speech and swallow eval
   ## PPx: heparin SC, Lansoprazole
   ## Code: full per discussion with family
   ICU Care
   Nutrition: NPO pending speech and swallow eval
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2185-2-26**] 10:30 AM
   18 Gauge - [**2185-2-26**] 11:00 AM
   Arterial Line - [**2185-2-26**] 08:42 PM will pull today
   Multi Lumen - [**2185-2-27**] 04:23 AM- will pull today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor today

2185-03-02 11:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   LP under fluoro
   Extubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-3-1**] 10:48 PM
   Acyclovir - [**2185-3-2**] 01:56 AM
   Ampicillin - [**2185-3-2**] 05:03 AM
   Ceftriaxone - [**2185-3-2**] 08:05 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-3-2**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-3-2**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 66 (59 - 79) bpm
   BP: 119/84(99) {90/51(68) - 148/84(108)} mmHg
   RR: 18 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,925 mL
                                                                    555 mL
   PO:
             TF:
   IVF:
                                                                  2,495 mL
                                                                    555 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                  1,025 mL
                                                                    360 mL
   Urine:
                                                                  1,025 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,900 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (346 - 474) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   118 K/uL
   91 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   15 mg/dL
   110 mEq/L
   145 mEq/L
   29.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2185-2-27**]  04:00 AM
                             [**2185-2-27**]  04:14 AM
                             [**2185-2-27**]  12:17 PM
                             [**2185-2-28**]  03:00 AM
                             [**2185-2-28**]  03:13 AM
                             [**2185-2-28**]  04:31 PM
                             [**2185-3-1**]  03:00 AM
                             [**2185-3-1**]  08:30 AM
                             [**2185-3-1**]  04:14 PM
                             [**2185-3-2**]  03:39 AM
   WBC
   21.0
   16.5
   13.3
   10.0
   5.1
   Hct
   33.8
   35.5
   33.7
   31.4
   29.5
   Plt
   125
   120
   107
   81
   122
   118
   Cr
   1.0
   1.0
   0.8
   0.7
   TropT
   0.03
   0.03
   0.02
   TCO2
   27
   28
   28
   29
   Glucose
   107
   131
   96
   91
   Other labs: PT / PTT / INR:12.9/55.8/1.1, CK / CKMB /
   Troponin-T:379/7/0.02, ALT / AST:28/42, Alk Phos / T Bili:96/0.1,
   Amylase / Lipase:147/, Differential-Neuts:79.3 %, Band:0.0 %,
   Lymph:13.5 %, Mono:5.5 %, Eos:1.3 %, D-dimer:1769 ng/mL, Fibrinogen:550
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:229 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: CSF: 2WBC/4RBC, normal protein/glucose
   Imaging: No new imaging.
   Microbiology: CSF - negative to date
   Assessment and Plan
   89 yo female admit with altered mental status and subsequent
   respiratory failure now with some improvement in mental status in the
   setting of continued empiric Rx for meningitis and with MRI findings
   without a clear discrete deficit noted to explain altered mental status
   at this time.  LP unremarkable.  Extubated yesterday.
   1)Respiratory Failure
patient extubated but with persistent
   mild/moderate secretions in the setting of weak cough.
   -Wean O2
   -Speech and swallow eval prior to return to feeds
   -OOB to chair as possible
   -WBC count has improved substantially
   2)Altered Mental Status-
   -Vanco/Acyclovir/CTX/Ampicillin
   -F/U LP cultures
   -Minimze sedating medications
   3)Hypotension- With adequate volume and extubated patient with
   reasonable Bp stability
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-2-26**] 10:30 AM
   Arterial Line - [**2185-2-26**] 08:42 PM
   Multi Lumen - [**2185-2-27**] 04:23 AM
   Prophylaxis:
   DVT: Boots, LMW Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill